US04436748
A mixture of 4.5 g of 6,7-dichloro-2-(2',6'-difluorophenyl)-5-methoxybenzo[b]thiophene and 45 g of pyridine hydrochloride is stirred at 190°-195° for 5 hrs and allowed to cool. While still fluid, the reaction mixture is poured onto 200 g of ice and stirred until thoroughly mixed. The aqueous mixture is extracted with three 200-ml portions of dichloromethane and the organic layers are combined, washed, dried over anhydrous magnesium sulfate and filtered. The solvent is removed to give a solid. The solid is recrystallized from ethyl ether-hexane to give 3.1 g of 6,7-dichloro-2-(2',6'-difluorophenyl)-5-hydroxybenzo[b]thiophene, mp 161°-162°.

reactant | 6,7-dichloro-2-(2',6'-difluorophenyl)-5-methoxybenzo[b]thiophene | 4.5 g | ClC=1C(=CC2=C(SC(=C2)C2=C(C=CC=C2F)F)C1Cl)OC | C15H8Cl2F2OS
reactant | pyridine hydrochloride | 45 g | Cl.N1=CC=CC=C1
product | 6,7-dichloro-2-(2',6'-difluorophenyl)-5-hydroxybenzo[b]thiophene | 3.1 g | ClC=1C(=CC2=C(SC(=C2)C2=C(C=CC=C2F)F)C1Cl)O | C14H6Cl2F2OS
